US07189741B2
B. Preparation of 3-{4-[1-(5-chloro-thiophen-2-ylmethyl)-6-fluoro-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.07 g (0.19 mmol) of 3-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester and 0.05 g (0.29 mmol) of 2-chloro-5-chloromethyl-thiophene. After standard purification, 0.01 g (10% of the yield) of the expected acid were obtained.

reactant | 3-[4-(6-fluoro-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester | 0.19 mmol, 0.07 g | COC(C1=CC(=CC=C1)CN1CCC(CC1)C1=CNC2=CC(=CC=C12)F)=O | C22H23FN2O2
reactant | 2-chloro-5-chloromethyl-thiophene | 0.29 mmol, 0.05 g | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 3-{4-[1-(5-chloro-thiophen-2-ylmethyl)-6-fluoro-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | ClC1=CC=C(S1)CN1C=C(C2=CC=C(C=C12)F)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H24ClFN2O2S
